US05463077
By working in accordance with Use Example 18, starting from 0.5 g of (3aS,4S,5S,7aS)-7,7-diphenyl-4-phenyl-perhydroisoindole-4,5-diol hydrochloride and 0.39 g of (2-methoxyphenyl)-acetic acid, 0.4 g of (3aS,4S,5S,7aS)-7,7-diphenyl-4-phenyl-2-[(2-methoxyphenyl)-acetyl]-perhydroisoindole-4,5-diol is obtained in the form of a white solid which melts with decomposition at 150° C.

reactant | (3aS,4S,5S,7aS)-7,7-diphenyl-4-phenyl-perhydroisoindole-4,5-diol hydrochloride | 0.5 g | Cl.C1(=CC=CC=C1)C1(C[C@@H]([C@@]([C@@H]2CNC[C@H]12)(O)C1=CC=CC=C1)O)C1=CC=CC=C1
reactant | (2-methoxyphenyl)-acetic acid | 0.39 g | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
product | (3aS,4S,5S,7aS)-7,7-diphenyl-4-phenyl-2-[(2-methoxyphenyl)-acetyl]-perhydroisoindole-4,5-diol | 0.4 g | C1(=CC=CC=C1)C1(C[C@@H]([C@@]([C@@H]2CN(C[C@H]12)C(CC1=C(C=CC=C1)OC)=O)(O)C1=CC=CC=C1)O)C1=CC=CC=C1 | C35H35NO4
